US04352818
A solution of 0.39 g (17.9 mmol) of lithium borohydride in 40 ml of dry tetrahydrofuran is added dropwise to a hot solution of 5.2 g (16.2 mmol) of ethyl 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate in 180 ml of dry tetrahydrofuran. The mixture is stirred at the boiling point for 4 hours and subsequently treated dropwise at room temperature with 10.4 ml of 3 N hydrochloric acid. The mixture obtained is heated to boiling under reflux for 1.5 hours. The tetrahydrofuran is removed in vacuo, the aqueous residue is treated with concentrated ammonia until the mixture is basic and extracted three times with methylene chloride. The methylene chloride solution is dried over magnesium sulphate and evaporated in vacuo. After recrystallization from ethanol, the crystalline residue yields 7-chloro-4,5-dihydro-3-(hydroxymethyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 207°-208°.

reactant | lithium borohydride | 17.9 mmol, 0.39 g | [BH4-].[Li+]
reactant | ethyl 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | 16.2 mmol, 5.2 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C(=O)OCC)C)=O | C15H14ClN3O3
reactant | hydrochloric acid | 3 N, 10.4 ml | Cl | ClH
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
product | 7-chloro-4,5-dihydro-3-(hydroxymethyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1CO)C)=O | C13H12ClN3O2
